US08293772B2
2-(2-Azido-ethoxy)-tetrahydro-pyran (compound 408)
A mixture of 2-(2-bromo-ethoxy)-tetrahydro-pyran (1.00 mL, 6.62 mmol), NaN3 (4.34 g, 66 mmol) and tetrabutylammonium iodide (245 mg, 0.66 mmol) in DMF (7.0 mL) was stirred at RT for 18 h. The reaction mixture was poured into a mixture of EtOAc/water. The organic phase was washed with water, brine and then dried (MgSO4), filtered and concentrated in vacuo to give the crude product. The crude product was purified by continuous gradient flash chromatography using EtOAc/petroleum ether (40-60) 0:100 to 20:80 as the eluent to afford the title compound as colourless oil.

reactant | 2-(2-bromo-ethoxy)-tetrahydro-pyran | 6.62 mmol, 1.00 mL | BrCCOC1OCCCC1 | C7H13BrO2
reactant | NaN3 | 66 mmol, 4.34 g | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc water | CCOC(=O)C.O
catalyst | tetrabutylammonium iodide | 0.66 mmol, 245 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
product | 2-(2-Azido-ethoxy)-tetrahydro-pyran | N(=[N+]=[N-])CCOC1OCCCC1 | C7H13N3O2
